US06921763B2
A mixture of N-benzo[d]isoxazol-3-yl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.087 g, 0.000258 mol), tert-butyl 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate (0.088 g, 0.000198 mol), tetrakis-(triphenylphosphine)palladium (0.014 g, 0.000012 mol) and sodium carbonate (0.053 g, 0.000495 mol) was heated in a mixture of ethylene glycol dimethyl ether (4 mL) and water (2 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure and the residue partitioned between water and dichloromethane. The organic phase was dried with magnesium sulfate and concentrated under reduced pressure to yield crude tert-butyl 4-{4-amino-3-[4-(benzo[d]isoxazol-3-ylamino)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl}-1-piperidinecarboxylate which was used without further purification. It was dissolved in ethyl acetate (5 mL) and treated with a 4N aqueous solution of hydrochloric acid (1 mL). The resulting emulsion was vigorously stirred for 1 hour; the water layer was neutralized with saturated solution of sodium bicarbonate in water and the layers were separated. The organic phase was concentrated under reduced pressure and residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1M ammonium acetate over 25 min, 21 mL/min) to yield N3-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}benzo[d]isoxazol-3-amine acetate (0.009 g, 0,0000185 mol) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 9.82 (s, 1H), 8.20 (m, 2H), 7.89 (d, 2H), 7.65 (m, 4H), 7.41 (t, 1H), 4.74 (m, 1H), 3.07 (m, 2H), 2.65 (m, 2H), 2.04 (m, 2H), 1.90 (s, 3H), 1.79 (m, 2H); RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 11.20 min. MS: MH+ 427.

reactant | N-benzo[d]isoxazol-3-yl-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.000258 mol, 0.087 g | O1N=C(C2=C1C=CC=C2)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C19H21BN2O3
reactant | tert-butyl 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.000198 mol, 0.088 g | NC1=C2C(=NC=N1)N(N=C2I)C2CCN(CC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | sodium carbonate | 0.000495 mol, 0.053 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | tert-butyl 4-{4-amino-3-[4-(benzo[d]isoxazol-3-ylamino)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl}-1-piperidinecarboxylate | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC2=NOC1=C2C=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C28H30N8O3
